Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Biaxin / Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
___ 05:20PM BLOOD WBC-9.6 RBC-4.60 Hgb-13.9 Hct-40.4 MCV-88 
MCH-30.2 MCHC-34.4 RDW-13.2 RDWSD-41.1 Plt ___
___ 08:15AM BLOOD Glucose-94 UreaN-8 Creat-0.6 Na-145 K-4.0 
Cl-106 HCO3-25 AnGap-14
___ 05:20PM BLOOD ALT-20 AST-19 AlkPhos-80 TotBili-0.5
___ 05:20PM BLOOD Lipase-27
___ 08:15AM BLOOD Calcium-9.4 Phos-3.7 Mg-2.0
___ 05:20PM URINE RBC-133* WBC->182* Bacteri-FEW* 
Yeast-NONE Epi-0 TransE-1
___ 05:20PM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*

 URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------     4 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----   <=___BD AND PELVIS W/O CONTRAST ___
  
INDICATION:  NO_PO contrast; History: ___ with infected 
stone?NO_PO contrast  
// CTU for stone. 
  
TECHNIQUE:  Multidetector CT images of the abdomen and pelvis 
were acquired 
without intravenous contrast. Non-contrast scan has several 
limitations in 
detecting vascular and parenchymal organ abnormalities, 
including tumor 
detection. 
Oral contrast was not administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 6.0 s, 46.8 cm; CTDIvol = 9.4 mGy 
(Body) DLP = 438.2 
mGy-cm. 
 Total DLP (Body) = 438 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
LOWER CHEST: Minimal bibasilar atelectasis is noted.  There is 
no evidence of 
pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogeneous attenuation 
throughout.  
There is no evidence of focal lesions within the limitations of 
an unenhanced 
scan.  There is no evidence of intrahepatic or extrahepatic 
biliary 
dilatation.  The gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions within the limitations of an unenhanced scan.  
There is no 
pancreatic ductal dilatation.  There is no peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size.  There is 
no suspicious 
renal lesions within the limitations of an unenhanced scan.  
There is no 
hydronephrosis.  There is no nephrolithiasis. There is no 
perinephric 
abnormality. 
  
GASTROINTESTINAL: There is a small hiatal hernia.  Small bowel 
loops 
demonstrate normal caliber and wall thickness throughout. The 
colon and rectum 
are within normal limits. The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Not well delineated, intermingled with 
small bowel in the 
deep pelvis and not well resolved without intravenous contrast. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.  Tiny fat 
containing umbilical hernia. 
  
IMPRESSION:  
  
No evidence of acute abdominopelvic abnormality. 

Renal US ___
1. 4 mm hyperechoic focus in the mid right kidney may represent 
a 
nonobstructing calculus. 
2. No evidence of hydronephrosis bilaterally. 

 
 

 
Brief Hospital Course:
___ woman with a history of recurrent UTIs, but none in the 
past
decade who presents to the ED with a one month history of on and
off urinary frequency, dysuria and hesitancy consistent with UTI
and non-obstructing nephrolithiasis. 
  
# Urinary Tract Infection, acute bacterial
# Nephrolithiasis
1 month of urinary tract infection symptoms, without response to
treatments with cefuroxime and ciprofloxacin concerning for
resistant organism. Given her history of recurrent UTIs, at risk
for resistant organisms. While she had mild tachycardia on
presentation there are no other signs or symptoms of sepsis and
her WBC is normal. Renal US with possible, CT confirmed 4 mm
stone within the renal pelvis but no obstruction and lack of
upper urinary symptoms and no signs of sepsis suggests unlikely
to be infected. She was started on CTX but urine culture 
returned showing resistance to cipro and ctx. She was switched 
to Bactrim and then discharged given lack of systemic symptoms, 
stable VS and normal labwork.  Given current low risk 
nephrolithiasis I did not think a urology
consult as an inpatient was necessary 

Transitional Isssues
[] continue Bactrim x 7 days
[] follow up with PCP
[] advised to start cranberry pills and stay well hydrated
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a UTI. The UTI was 
resistant to cipro and ceftriaxone. We started you on Bactrim 
for treatment of E coli in your urinary tract. Please follow up 
with your primary care doctor, drink plenty of water and 
consider starting a cranberry supplement daily. 
 
Followup Instructions:
___